US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran (174 mg, 0.28 mmol) and methanol solution of 5N--HCl (1 ml) were dissolved in methanol (10 ml) and then stirred for 5 hours at 40° C. The reaction solution was cooled to room temperature and, after adding water, extracted with ethyl acetate. The organic layer thus separated was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified with flash column chromatography (dichloromethane:ethanol=9:1) to obtain 139 mg (yield: 93%) of the title compound as a pale yellow oil.

reactant | (3RS,4RS)-7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran | 0.28 mmol, 174 mg | COCOC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)OCOC)CCCCCCCCCSCCN2CCCCC2)C=C1 | C36H55NO5S
reactant | HCl | 1 ml | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran | 139 mg, yield: 93% | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCSCCN2CCCCC2)C=C1 | C32H47NO3S
